Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Pancreatitis
 
Major Surgical or Invasive Procedure:
1. Distal pancreatectomy with splenectomy.
2. Open cholecystectomy.
3. Right inguinal hernia repair (recurrent).
4. Intraoperative ultrasound.

 
History of Present Illness:
This ___ male is overall very active and healthy but has 
suffered the effects of longterm alcoholic pancreatitis.  In the 
last ___ years, he has developed pain problems from this.  He 
has been found to have a pancreatic pseudocyst at times and most 
recently this has resolved; however, the source of his abdominal 
pain clearly is due to a dilated pancreatic duct.  His abdominal 
pain is postprandial anywhere from two to three hours after 
eating and he
requires narcotics for this and takes Vicodin.  It is 
periumbilical and epigastric and radiates to the back.  He has 
now been abstinent for eight months from alcohol and otherwise 
leads a pretty healthy lifestyle.  He does take pancreatic 
enzyme replacement for this problem.  He has had ___ years of 
symptoms and has been admitted two times to the hospital for 
pain.  He has
suffered over 30-pound weight loss and basically is down to skin 
and bones.  
 
Past Medical History:
emphysema, COPD, chronic pancreatitis w/ pseudocyst, bilateral 
inguinal hernia, traumatic finger amputation on his right hand 
___ years ago.  
ERCP with US 
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
AVSS
Gen: NAD, thin appearing male
CV: RRR
Chest: CTA
Abd: soft, nontender, and nondistended with positive bowel 
sounds, and he has a scaphoid appearance.  There is no evidence 
of any mass in his abdomen. 
His inguinal and genital regions are normal.  He has two scars 
in
the inguinal regions from his prior hernia repairs.  However, on
the right side, he has a poorly reducible right inguinal 
 
Pertinent Results:
___ 05:50PM BLOOD WBC-11.8* RBC-4.26* Hgb-13.2* Hct-40.4 
MCV-95 MCH-31.0 MCHC-32.7 RDW-14.6 Plt ___
___ 03:18PM BLOOD WBC-23.6*# RBC-3.49* Hgb-11.1* Hct-32.9* 
MCV-94 MCH-32.0 MCHC-33.9 RDW-14.7 Plt ___
___ 06:10AM BLOOD WBC-17.9* RBC-3.65* Hgb-11.7* Hct-34.9* 
MCV-96 MCH-32.1* MCHC-33.6 RDW-14.4 Plt ___
___ 09:30AM BLOOD WBC-9.7 RBC-3.19* Hgb-10.4* Hct-30.3* 
MCV-95 MCH-32.5* MCHC-34.3 RDW-14.0 Plt ___
___ 10:10AM BLOOD Glucose-126* UreaN-4* Creat-0.5 Na-137 
K-4.3 Cl-98 HCO3-28 AnGap-15
___ 06:00AM BLOOD ALT-14 AST-15 AlkPhos-52 Amylase-80 
TotBili-0.4
___ 06:00AM BLOOD Lipase-3
___ 06:05AM BLOOD WBC-8.9 RBC-3.29* Hgb-10.1* Hct-30.8* 
MCV-94 MCH-30.8 MCHC-32.9 RDW-14.0 Plt ___
___ 06:05AM BLOOD Neuts-74.4* Lymphs-16.1* Monos-5.7 
Eos-3.6 Baso-0.2
___ 06:05AM BLOOD Plt ___
___ 09:30AM BLOOD Glucose-123* UreaN-4* Creat-0.5 Na-140 
K-3.9 Cl-99 HCO3-36* AnGap-9
___ 06:00AM BLOOD ALT-14 AST-15 AlkPhos-52 Amylase-80 
TotBili-0.4
___ 06:00AM BLOOD Lipase-33
___ 12:00AM BLOOD CEA-4.8*

ABDOMEN (SUPINE & ERECT) Study Date of ___ 7:23 ___ 
 
IMPRESSION: Gaseous-distended loops of small and large bowel, 
likely reflects an ileus. 
 .
CHEST (PORTABLE AP)   Clip # ___   
Reason: r/o pneumonia  
FINDINGS: 
Since the prior study, there has been interval development of 
hazy opacities 
in the right upper lobe and left upper lobe with air 
bronchograms concerning 
for pneumonia. There is minimal atelectasis at the lung bases. A 
drainage 
catheter is present in the left upper abdomen. 
 Cardiomediastinal silhouette is unremarkable. 
IMPRESSION: 
Developing pneumonia in bilateral upper lobes. 

 
Brief Hospital Course:
This is a ___ year old male with Chronic pancreatitis.
1. Distal pancreatectomy with splenectomy.
2. Open cholecystectomy.
3. Right inguinal hernia repair (recurrent).
4. Intraoperative ultrasound.

Pain: He had an epidural for pain control and was followed by 
APS. He had some significant post-op pain and was started on a 
Ketamine drip in addition to the epidural and PCA. The epidural 
was stopped on POD 4 and removed on POD 5 after receiving 
Vitamin K for a slightly elevated INR. He was transitioned to a 
PCA and then oral pain medications once tolerating a diet.

GI/ABD: He was NPO, with a NGT and IVF. The NGT, per the 
pathway, was removed on POD 3. His diet was slowly advanced as 
she had return of bowel function. He was tolerating full liquids 
by POD 5. On POD 5, a JP Amylase was measured and was 36. The 
drain was subsequently removed the next day.
His abdomen was soft, nondistended and the incision with staples 
was C/D/I. The staples were removed prior to discharge and steri 
strips placed.
He was tolerating regular food and reported +flatus and +BM 
prior to discharge.

Post-op Pneumonia: A CXR revealed developing pneumonia in 
bilateral upper lobes and he was started on Levoquin. 
 
Medications on Admission:
pancrease, vicodin, omeprazole
 
Discharge Medications:
1. Levofloxacin 250 mg Tablet Sig: Three (3) Tablet PO Q24H 
(every 24 hours) for 3 days.
Disp:*9 Tablet(s)* Refills:*0*
2. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.
Disp:*30 Capsule, Delayed Release(E.C.)(s)* Refills:*2*
3. Oxycodone 20 mg Tablet Sustained Release 12 hr Sig: One (1) 
Tablet Sustained Release 12 hr PO every twelve (12) hours as 
needed for pain.
Disp:*30 Tablet Sustained Release 12 hr(s)* Refills:*0*
4. Oxycodone 5 mg Tablet Sig: ___ Tablets PO Q4H (every 4 hours) 
as needed for pain: For immediate relief of pain not relieved by 
standing dose.
Disp:*20 Tablet(s)* Refills:*0*
5. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
6. Acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO TID (3 
times a day) as needed for pain. Tablet(s) 

 
Discharge Disposition:
Home with Service
 
Discharge Diagnosis:
Chronic Pancreatitis
Post-op Pneumonia

 
Discharge Condition:
Good

 
Discharge Instructions:
Please call your doctor or return to the ER for any of the 
following:
* You experience new chest pain, pressure, squeezing or 
tightness.
* New or worsening cough or wheezing.
* If you are vomiting and cannot keep in fluids or your 
medications.
* You are getting dehydrated due to continued vomiting, diarrhea 
or other reasons. 
* Signs of dehydration include dry mouth, rapid heartbeat or 
feeling dizzy or faint when standing.
* You see blood or dark/black material when you vomit or have a 
bowel movement.
* Your skin, or the whites of your eyes become yellow.
* Your pain is not improving within ___ hours or not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or is changing location or moving to your chest or 

back.
* You have shaking chills, or a fever greater than 101.5 (F) 
degrees or 38(C) degrees.
* Any serious change in your symptoms, or any new symptoms that 
concern you. 
.
* Please resume all regular home medications and take any new 
meds 
as ordered. 
* Do not drive or operate heavy machinery while taking any 
narcotic pain medication. You may have constipation when taking 
narcotic pain medications (oxycodone, percocet, vicodin, 
hydrocodone, dilaudid, etc.); you should continue drinking 
fluids, you may take stool softeners, and should eat foods that 
are high in fiber. 
* Continue to increase activity daily 
* No heavy lifting ___ lbs) for 6 weeks.
* Monitor your incision for signs of infection
* You may shower and wash. No tub baths or swimming. Keep your 
incision clean and dry.

 
Followup Instructions:
___